US04686220
4-(1,4-Dihydro-3-hydroxy-1,4-dioxo-2-naphthalenyl)-1-piperazinecarboxaldehyde
A mixture of 3.48 g of 2,3-epoxy-2,3-dihydro-1,4-naphthoquinone, 2.28 of 1-piperazinecarboxaldehyde and 200 ml of absolute ethanol was stirred for 20 hours, then concentrated to one-half its original volume and refrigerated overnight. The solid was collected and recrystallized from dichloromethane/ethanol, giving 2.65 g of the desired product, mp 200°-203° C.

reactant | 2,3-epoxy-2,3-dihydro-1,4-naphthoquinone | 3.48 g | O1C2C(C3=CC=CC=C3C(C21)=O)=O | C10H6O3
reactant | 1-piperazinecarboxaldehyde | N1(CCNCC1)C=O | C5H10N2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-(1,4-Dihydro-3-hydroxy-1,4-dioxo-2-naphthalenyl)-1-piperazinecarboxaldehyde | 2.65 g | OC1=C(C(C2=CC=CC=C2C1=O)=O)N1CCN(CC1)C=O | C15H14N2O4
